US07163937B2
To a solution of {(3S)-1-[(1S,2R,4R)-4-tert-butoxycarbonylamino-2-propyl-cyclohexyl]-2-oxo-pyrrolidin-3-yl}-carbamic acid benzyl ester (3.88 g, 8.2 mmol) in CH2Cl2 (90 mL) was added TFA (45 mL) at RT. The reaction was stirred for 5 h and concentrated in vacuo. The residue was partitioned between 1N NaOH (100 mL) and EtOAc (150 mL). The aqueous layer was extracted with EtOAc (2×50 mL) and the organic phases were combined, washed with brine (25 mL), dried (Na2SO4), filtered, and concentrated in vacuo to give benzyl (S)-1-[(1S,2R,4R)-4-amino-2-propylcyclohexyl]-2-oxopyrrolidin-3-ylcarbamate. MS found: (M+H)+=374.3.

reactant | {(3S)-1-[(1S,2R,4R)-4-tert-butoxycarbonylamino-2-propyl-cyclohexyl]-2-oxo-pyrrolidin-3-yl}-carbamic acid benzyl ester | 8.2 mmol, 3.88 g | C(C1=CC=CC=C1)OC(N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(=O)OC(C)(C)C)CCC)=O)=O | C26H39N3O5
reactant | TFA | 45 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 90 mL | C(Cl)Cl | CH2Cl2
product | benzyl (S)-1-[(1S,2R,4R)-4-amino-2-propylcyclohexyl]-2-oxopyrrolidin-3-ylcarbamate | N[C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O)CCC | C21H31N3O3
